US08859536B2
2-(5-Bromo-1H-indol-1-yl)thiazole (82A)
2-Bromo thiazole (0.837 g, 5.10 mmol) was added to a solution of 5-bromo indole (1 g, 5.10 mmol) in DMF (15 mL) followed by cesium carbonate (3.32 g, 10.20 mmol), and the mixture was stirred at 90° C. for 12 h. Insoluble solids were filtered off, the filtrate was concentrated and partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate, and filtered. The filtrate was concentrated under reduced pressure and purified by flash chromatography using 5% ethyl acetate in pet ether to afford title compound (0.75 g, 52.7%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.24 (d, J=8.8 Hz, 1H), 7.77 (d, J=2.0 Hz, 1H), 7.62 (dd, J1=3.2 Hz, J2=10.4 Hz, 2H), 7.45 (dd, J1=2.0 Hz, J2=8.8 Hz, 1H), 7.08 (d, J=3.6 Hz, 1H), 6.66 (d, J=4.0 Hz, 1H).

reactant | 2-Bromo thiazole | 5.10 mmol, 0.837 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 5-bromo indole | 5.10 mmol, 1 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | cesium carbonate | 10.20 mmol, 3.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-1H-indol-1-yl)thiazole | 0.75 g, 52.7% | BrC=1C=C2C=CN(C2=CC1)C=1SC=CN1 | C11H7BrN2S
